US20010007873A1
C. 2-(2,5-Dimethylpyrrolyl)-6-[4-fluoro-2,3-dimethyl-phenyl]-pyridine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 3.08 g (12.27 mmol)6-bromo-2-(2,5-dimethylpyrrolyl)pyridine, 2.06 g (12.27 mmol) 3-fluoro-o-xylene-6-boronic acid, 5.20 g (49.1 mmol) sodium carbonate, 140 mg tetrakistriphenylphosphinepalladium, 36 mL ethanol, and 4 mL water. The reaction was refluxed 4 hours, cooled, and poured into water, then extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using hexane/ethyl acetate as eluant to afford 3.2 g (89%) of a solid.

reactant | 6-bromo-2-(2,5-dimethylpyrrolyl)pyridine | 12.27 mmol, 3.08 g | BrC1=CC=CC(=N1)C1=C(NC(=C1)C)C | C11H11BrN2
reactant | 3-fluoro-o-xylene-6-boronic acid | 12.27 mmol, 2.06 g | FC1=C(C(=C(C=C1)B(O)O)C)C | C8H10BFO2
reactant | sodium carbonate | 49.1 mmol, 5.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 36 mL | C(C)O | C2H6O
catalyst | tetrakistriphenylphosphinepalladium | 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 4 mL | O | H2O
product | 2-(2,5-Dimethylpyrrolyl)-6-[4-fluoro-2,3-dimethyl-phenyl]-pyridine | 3.2 g, 89% | CC=1NC(=CC1C1=NC(=CC=C1)C1=C(C(=C(C=C1)F)C)C)C | C19H19FN2
